US05834454
In accordance with the process described in Example 22(a)-(c) except for using ethyl 4-methyl-1H-indole-2-carboxylate as a starting material, ethyl 5,6,7, 8-tetrahydro-11-methyl-8-oxo-4H-azocino[3.2.1-hi]indole-2-carboxylate (m.p. 98° C., recrystallized from isopropyl alcohol) was synthesized. Ethyl 5,6,7,8-tetrahydro-11-methyl-8-oxo-4H-azocino [3.2.1-hi]indole-2-carboxylate (2.50 g, 8.76 mmol) was then dissolved in carbon tetrachloride (80 ml) and N-bromosuccinimide (1.72 g, 9.64 mmol) and 2,2'-azobisisobutyronitrile (43 mg) were added therein under refluxing condition to heat at reflux for 2 hours. The reaction mixture was poured into water and extracted with chloroform. The extract was washed with saturated sodium chloride solution and dried over magnesium sulfate. The solvent was distilled off and the obtained residue was purified with silica gel column chromatography (eluated with ethyl acetate/n-hexane= 1/10) to give ethyl 5,6,7,8-tetrahydro-11-bromomethyl-8-oxo-4H-azocino [3.2.1-hi]indole-2-carboxylate (3.12 g).

reactant | ethyl 4-methyl-1H-indole-2-carboxylate | CC1=C2C=C(NC2=CC=C1)C(=O)OCC | C12H13NO2
reactant | ethyl 5,6,7, 8-tetrahydro-11-methyl-8-oxo-4H-azocino[3.2.1-hi]indole-2-carboxylate | CC1=C2C=C(N3C2=C(C=C1)C(CCCC3)=O)C(=O)OCC | C17H19NO3
reactant | Ethyl 5,6,7,8-tetrahydro-11-methyl-8-oxo-4H-azocino [3.2.1-hi]indole-2-carboxylate | 8.76 mmol, 2.50 g | CC1=C2C=C(N3C2=C(C=C1)C(CCCC3)=O)C(=O)OCC | C17H19NO3
reactant | N-bromosuccinimide | 9.64 mmol, 1.72 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | carbon tetrachloride | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | 2,2'-azobisisobutyronitrile | 43 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | ethyl 5,6,7,8-tetrahydro-11-bromomethyl-8-oxo-4H-azocino [3.2.1-hi]indole-2-carboxylate | 3.12 g | BrCC1=C2C=C(N3C2=C(C=C1)C(CCCC3)=O)C(=O)OCC | C17H18BrNO3
